US06107329
(S)-[1-Benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester
4-Hydroxypiperidine (75 mmol) and Boc-L-phenylalanine (38 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 144 hour reaction time) and the product used without further purification. Yield 12.2 g, 96%; HPLC (60/40) 3.45 minutes (97%).

reactant | 4-Hydroxypiperidine | 75 mmol | OC1CCNCC1 | C5H11NO
reactant | Boc-L-phenylalanine | 38 mmol | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | (S)-[1-Benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1)=O | C19H28N2O4
